US05801008
(2) Synthesis of dimethyl 4-amino-3-(benzothiophen-2-yl)pyrazolo[3,4-b]pyridine-5,6-dicarboxylate
Using 3.16 g (10 mmol) of 5-amino-3-(benzothiophen-2-yl)-1-phenylpyrazole-4-carbonitrile and 1.42 g (10 mmol) of dimethyl acetylenedicarboxylate, the entitled product having a melting point of 218° to 220° C. was obtained in the same manner as in Example 2-(2).

reactant | 5-amino-3-(benzothiophen-2-yl)-1-phenylpyrazole-4-carbonitrile | 10 mmol, 3.16 g | NC1=C(C(=NN1C1=CC=CC=C1)C=1SC2=C(C1)C=CC=C2)C#N | C18H12N4S
reactant | dimethyl acetylenedicarboxylate | 10 mmol, 1.42 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
product | dimethyl 4-amino-3-(benzothiophen-2-yl)pyrazolo[3,4-b]pyridine-5,6-dicarboxylate | NC1C=2C(=NC(=C1C(=O)OC)C(=O)OC)N=NC2C=2SC1=C(C2)C=CC=C1 | C18H14N4O4S
